US04175203
To a solution of ethyl [2-(3-hydroxypropyl)phenyl]acetate (44.4 g., 0.20 mole) in ether (300 ml.) is added dropwise during 40 minutes a solution of phosphorus tribromide (20.7 g., 0.075 mole) in ether (100 ml.). The temperature is maintained at 25°-28° C. during this time by means of a cold water bath. The reaction solution is then heated at reflux for 4 hours. It is cooled and poured into iced-water. The ether layer is separated, washed with water, dried over magnesium sulfate, and evaporated in vacuo to yield ethyl [2-(3-Bromopropyl)phenyl]acetate.

reactant | ethyl [2-(3-hydroxypropyl)phenyl]acetate | 0.20 mole, 44.4 g | OCCCC1=C(C=CC=C1)CC(=O)OCC | C13H18O3
reactant | phosphorus tribromide | 0.075 mole, 20.7 g | P(Br)(Br)Br | Br3P
reactant | water | O | H2O
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | ethyl [2-(3-Bromopropyl)phenyl]acetate | BrCCCC1=C(C=CC=C1)CC(=O)OCC | C13H17BrO2
